US06130217
To 7-hydroxy-2-methylbenzothiazole (500 mg, 3.0 mmol) in DMF (3 mL) was added K2CO3 (459 mg, 3.32 mmol) followed by allyl bromide (287 uL, 3.32 mmol). The reaction was heated at about 50° C. for about 4 hours and then poured into water. The aqueous mixture was extracted with EtOAc, the combined organic layers were dried over Na2SO4, and the solvent then removed by rotary evaporation. The resulting oil crystallized on standing to give 7-allyloxy-2-methyl-benzothiazole as yellow crystals (440 mg, 71%); LSIMS m/z 206, m.p. 38-39° C.

reactant | 7-hydroxy-2-methylbenzothiazole | 3.0 mmol, 500 mg | OC1=CC=CC=2N=C(SC21)C | C8H7NOS
reactant | K2CO3 | 3.32 mmol, 459 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 3.32 mmol, 287 uL | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 7-allyloxy-2-methyl-benzothiazole | 440 mg, 71% | C(C=C)OC1=CC=CC=2N=C(SC21)C | C11H11NOS
